US08563512B2
(R)-3-[N-(5′-Chloro-2′-fluoro-biphenyl-4-ylmethyl)-hydrazino]-2-hydroxy-propionic Acid Ethyl Ester
(R)-3-[N-(4-Bromobenzyl)-N′-t-butoxycarbonyl-hydrazino]-2-hydroxy-propionic acid methyl ester (1.0 g, 2.5 mmol), 5-chloro-2-fluorophenylboronic acid (865 mg, 4.96 mmol), and K2CO3 (857 mg, 6.2 mmol), were combined in EtOH (30 mL, 500 mmol) and water (8 mL, 400 mmol), followed by the addition of SilicaCat® DPP-Pd (0.28 mmol/g loading; 886 mg, 248 μmol). The mixture was heated at 90° C. until the reaction was complete (2 hours). The precipitate was filtered off, and the filtrate was concentrated and purified (Interchim reverse phase chromatography column; 30-95% MeCN in water with 0.5% TFA). The clean fractions were collected, lyophilized, and combined with 4 M HCl in dioxane (8 mL, 30 mmol) and EtOH (10 mL, 200 mmol). The resulting mixture was stirred at room temperature until the reaction was complete (7 hours). The mixture was concentrated to yield an oil, which was stirred in ether with few drops of EtOH overnight. The precipitate was filtered off and rinsed with ether to yield the title compound (140 mg).

reactant | (R)-3-[N-(4-Bromobenzyl)-N′-t-butoxycarbonyl-hydrazino]-2-hydroxy-propionic acid methyl ester | 2.5 mmol, 1.0 g | COC([C@@H](CN(NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)Br)O)=O | C16H23BrN2O5
reactant | 5-chloro-2-fluorophenylboronic acid | 4.96 mmol, 865 mg | ClC=1C=CC(=C(C1)B(O)O)F | C6H5BClFO2
reactant | K2CO3 | 6.2 mmol, 857 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 400 mmol, 8 mL | O | H2O
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 30 mmol, 8 mL | O1CCOCC1 | C4H8O2
solvent | ether | CCOCC | C4H10O
catalyst | Pd | 248 μmol, 886 mg | [Pd] | Pd
solvent | EtOH | CCO | C2H6O
solvent | EtOH | 200 mmol, 10 mL | CCO | C2H6O
solvent | EtOH | 500 mmol, 30 mL | CCO | C2H6O
product | (R)-3-[N-(5′-Chloro-2′-fluoro-biphenyl-4-ylmethyl)-hydrazino]-2-hydroxy-propionic Acid Ethyl Ester | 140 mg | C(C)OC([C@@H](CN(N)CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F)O)=O | C18H20ClFN2O3
